US04120856
The 7-bromo-1,3-dihydro-3-hydroxy-5-phenyl-2H-1,4-benzodiazepin-2-one used in this preparation was prepared by the following procedure. A 10.0-g (0.03 mole) sample of 7-bromo-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one 4-oxide was added portionwise to 50 ml of trifluoroacetic anhydride, and the reaction mixture was stirred at room temperature for 2 hr. The suspended solid was collected on a filter, washed thoroughly with pentane, and dried in vacuum over potassium hydroxide pellets to give 12.8 g (99%) of 7-bromo-1,3-dihydro-5-phenyl-3-trifluoroacetoxy-2H-1,4-benzodiazepin-2-one as a white crystalline powder; mp 181°-183°; 1H nmr (DMSO-d6) δ 6.28 ppm (s, 1H), 7.64 ppm (m, 8H), and 11.38 ppm (NH); 19F nmr (DMSO-d6) δ -74.6 ppm (s).

reactant | 7-bromo-1,3-dihydro-3-hydroxy-5-phenyl-2H-1,4-benzodiazepin-2-one | BrC=1C=CC2=C(C(=NC(C(N2)=O)O)C2=CC=CC=C2)C1 | C15H11BrN2O2
reactant | 7-bromo-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one 4-oxide | BrC=1C=CC2=C(C(=[N+](CC(N2)=O)[O-])C2=CC=CC=C2)C1 | C15H11BrN2O2
reactant | trifluoroacetic anhydride | 50 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 7-bromo-1,3-dihydro-5-phenyl-3-trifluoroacetoxy-2H-1,4-benzodiazepin-2-one | 12.8 g, 99% | BrC=1C=CC2=C(C(=NC(C(N2)=O)OC(C(F)(F)F)=O)C2=CC=CC=C2)C1 | C17H10BrF3N2O3
